US07608627B2
To a solution of potassium (1Z)-1-[2-(dibenzylamino)-5-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate (5.0 g, 10.6 mmol) in acetic acid (151.4 mL) was added iron powder (2.43 g, 43.5 mmol) under a nitrogen atmosphere. The mixture was warmed to 60° C. and stirred for 2 h. The reaction mixture was filtered through diatomaceous earth, and the filtrate was concentrated to ca. 100 mL in volume. The concentrate was poured into rapidly stirring water (ca. 200 mL). The precipitate was observed. Ethyl acetate (150 mL) was added and the mixture was stirred until the solid was dissolved. The layers were separated, and the aqueous layer was extracted with ethyl acetate (2×). The combined extracts were washed with dilute NaHCO3 and saturated NaCl, and dried over Na2SO4. The solution was dark red. Consequently, activated charcoal (Darco G-60, 1.20 g) was added to the solution. After filtration through diatomaceous earth, the filtrate was concentrated to dryness to afford a dark brown solid. The solid was sonicated in toluene (ca. 75 mL) for 30 min. After standing at room temperature overnight, the solid was collected by filtration and rinsed with toluene to give ethyl 5-(dibenzylamino)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (0.80 g, 19%) as a yellow solid. Further manipulation of the mother liquors provided additional material (0.19 g, 5%): mp 169-174° C.; 1H NMR (300 MHz, CD3OD) δ1.38 (3H, t, J=7.0 Hz), 4.37 (2H, q, T=7.0 Hz), 4.75 (4H, s), 6.64 (1H, d, J=0.9 Hz), 6.85 (1H, d, J=0.9 Hz), 7.21-7.27 (10H, m), 8.48 (1H, s); ESI MS m/z 386 [C24H23N3O2+H]+; HPLC (Method A) >99% (AUC), tR=20.1 min.

reactant | potassium (1Z)-1-[2-(dibenzylamino)-5-nitropyridin-4-yl]-3-ethoxy-3-oxoprop-1-en-2-olate | 10.6 mmol, 5.0 g | C(C1=CC=CC=C1)N(C1=NC=C(C(=C1)\C=C(\C(=O)OCC)/[O-])[N+](=O)[O-])CC1=CC=CC=C1.[K+]
solvent | acetic acid | 151.4 mL | C(C)(=O)O | C2H4O2
solvent | toluene | ca. 75 mL | C1(=CC=CC=C1)C | C7H8
catalyst | iron | 43.5 mmol, 2.43 g | [Fe] | Fe
product | ethyl 5-(dibenzylamino)-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.80 g, 19% | C(C1=CC=CC=C1)N(C=1C=C2C(=CN1)NC(=C2)C(=O)OCC)CC2=CC=CC=C2 | C24H23N3O2
